US09301951B2
Intermediate 69a: 4-fluoro-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridine
Into a 500-mL 3-necked round bottom flask purged and maintained with an inert atmosphere of nitrogen, was placed a solution of 1-(4-nitro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine (15 g, 45.18 mmol, 1.00 equiv) in DME/H2O (100/5 mL), 2-chloro-4-fluoropyridine (7.80 g, 60.00 mmol, 1.20 equiv), K3PO4 (31 g, 146.23 mmol, 3.00 equiv), 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (SPhos) (2.00 g, 4.88 mmol, 0.10 equiv), and Pd(PPh3)4 (2800 mg, 2.42 mmol, 0.05 equiv). The resulting solution was stirred for 1 overnight at 80° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 200 mL of H2O, extracted with 3×300 mL of dichloromethane, and the organic layers combined. The resulting mixture was washed with 1×20 mL of brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. The residue was applied onto a silica gel column and eluted with ethyl acetate/petroleum ether (10:1). The product was obtained as 8 g of a yellow solid.

reactant | 1-(4-nitro-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)piperidine | 45.18 mmol, 15 g, 1.00 equiv | [N+](=O)([O-])C1=C(C=C(C=C1)N1CCCCC1)B1OC(C(O1)(C)C)(C)C | C17H25BN2O4
reactant | 2-chloro-4-fluoropyridine | 60.00 mmol, 7.80 g, 1.20 equiv | ClC1=NC=CC(=C1)F | C5H3ClFN
reactant | K3PO4 | 146.23 mmol, 31 g, 3.00 equiv | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 4.88 mmol, 2.00 g, 0.10 equiv | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | DME H2O | 5 mL | COCCOC.O
catalyst | Pd(PPh3)4 | 2.42 mmol, 2800 mg, 0.05 equiv | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-fluoro-2-(2-nitro-5-(piperidin-1-yl)phenyl)pyridine | 8 g | FC1=CC(=NC=C1)C1=C(C=CC(=C1)N1CCCCC1)[N+](=O)[O-] | C16H16FN3O2
